* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_10
* Fitness: 0.9890
*
* --- Active Constraints ---
* _comment: Phase 1: 3.3V Logic to 5V Rail (Boost)
* vin_min: 3.0
* vin_max: 3.6
* vout_target: 5
* efficiency_target: 0.75
* power_in: 5
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 4.235404
* efficiency: 0.749544
* total_volume_cm3: 28.035261
* total_components: 4
* ============================

* 3.3V to 5V Boost, 5W
Vin in 0 3.3
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 0.5
Rbleed sw 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end